US08754103B2
To a solution of 1-iodo-4-(trifluoromethoxy)benzene (288 mg, 1.0 mmol) and 6-chloro-5-methylpyridin-3-ylboronic acid (223 mg, 1.3 mmol) in DMF (2 mL) was added K2CO3 (552 mg, 4.0 mmol) and H2O (0.5 mL). The reaction mixture was stirred for 5 min under an atmosphere of dry N2. Pd(PPh3)4 (10 mg, 0.009 mmol) was added, and the resulting mixture was subjected to irradiation at 120° C. for 10 min. Cooled, diluted with EtOAc (20 mL), filtered through a layer of celite, washed with 10% DMF in EtOAc (50 mL), transferred to a separation funnel, organic phase was washed with 2N Na2CO3 (20 mL, 4.00 mmol), H2O (20 mL), 30% aqueous NH4Cl (50 mL) and brine (50 mL), and dried and concentrated. The crude mixture was subjected to preparative HPLC with a gradient MeCN/H2O (5% to 98%) containing 0.1% TFA to afford 2-chloro-3-methyl-5-(4-(trifluoromethoxy)phenyl)pyridine,

reactant | 1-iodo-4-(trifluoromethoxy)benzene | 1.0 mmol, 288 mg | IC1=CC=C(C=C1)OC(F)(F)F | C7H4F3IO
reactant | 6-chloro-5-methylpyridin-3-ylboronic acid | 1.3 mmol, 223 mg | ClC1=C(C=C(C=N1)B(O)O)C | C6H7BClNO2
reactant | K2CO3 | 4.0 mmol, 552 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | Na2CO3 | 4.00 mmol, 2N, 20 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
solvent | H2O | 20 mL | O | H2O
solvent | NH4Cl | 50 mL | [NH4+].[Cl-]
solvent | brine | 50 mL | [Cl-].[Na+].O
catalyst | Pd(PPh3)4 | 0.009 mmol, 10 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | H2O | 0.5 mL | O | H2O
product | 2-chloro-3-methyl-5-(4-(trifluoromethoxy)phenyl)pyridine | ClC1=NC=C(C=C1C)C1=CC=C(C=C1)OC(F)(F)F | C13H9ClF3NO
